US08809331B2
To 5-methoxy-2-methyl-4-nitroaniline (4.9 g, 26.8 mmol) in a mixture of acetone (17.5 mL) and water (19 mL) at 0° C. was added conc. HCl (5.6 mL). A solution of sodium nitrite (2.25 g, 32.6 mmol) in water (7.5 mL) was added dropwise and the mixture was allowed to stir at 0° C. for 30 min. The mixture was then added dropwise to a mixture of copper cyanide (3.75 g, 42 mmol) and sodium cyanide (5.5 g, 112 mmol) in water (25 mL) and EtOAc (12.5 mL). The mixture was allowed to stir at RT for 2 h and then water (50 mL) was added. The mixture was extracted with EtOAc (3×100 mL) and the combined organic fractions were washed with 2 M NaOH(aq) (50 mL) and brine (50 mL). The organic fraction was passed through a hydrophobic frit and the solvent was removed in vacuo. The residue was triturated with iso-hexane and dried to give 5-methoxy-2-methyl-4-nitrobenzonitrile (4.62 g, 90%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M]−=192 at 3.19 min. 1H NMR (400 MHz, CDCl3): δ 7.72 (s, 1H), 7.31 (s, 1H), 3.98 (s, 3H), 2.55 (s, 3H).

reactant | 5-methoxy-2-methyl-4-nitroaniline | 26.8 mmol, 4.9 g | COC=1C(=CC(=C(N)C1)C)[N+](=O)[O-] | C8H10N2O3
reactant | HCl | 5.6 mL | Cl | ClH
reactant | sodium nitrite | 32.6 mmol, 2.25 g | N(=O)[O-].[Na+]
reactant | copper cyanide | 42 mmol, 3.75 g | [Cu](C#N)C#N
reactant | sodium cyanide | 112 mmol, 5.5 g | [C-]#N.[Na+]
solvent | acetone | 17.5 mL | CC(=O)C | C3H6O
solvent | water | 19 mL | O | H2O
solvent | water | 7.5 mL | O | H2O
solvent | water | 25 mL | O | H2O
solvent | EtOAc | 12.5 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
product | 5-methoxy-2-methyl-4-nitrobenzonitrile | 4.62 g, 90% | COC=1C(=CC(=C(C#N)C1)C)[N+](=O)[O-] | C9H8N2O3
